US05262433
To a solution of 1 g (4.7 mM) of [5-(3-thienyl)tetrazol-1-yl] acetic acid in 5 ml of ethylene glycol was added 0.5 ml of sulfuric acid. After the addition, the mixture was stirred at 90° C. for 2.5 hrs. The mixture was then poured into ice-water and the precipitated crystal was filtered off, washed with water and recrystrallized from ethyl alcohol, to give 620 mg (yield 50%) of [5-(3-thienyl)tetrazol-1-yl] acetic acid 2-hydroxyethyl ester.

reactant | [5-(3-thienyl)tetrazol-1-yl] acetic acid | 4.7 mM, 1 g | S1C=C(C=C1)C1=NN=NN1CC(=O)O | C7H6N4O2S
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethylene glycol | 5 ml | C(CO)O | C2H6O2
product | [5-(3-thienyl)tetrazol-1-yl] acetic acid 2-hydroxyethyl ester | 620 mg, yield 50% | OCCOC(CN1N=NN=C1C1=CSC=C1)=O | C9H10N4O3S
